US07132419B2
10-Amino-4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester (IV.7)
A mixture of 10-fluoro-4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester (IV.5) (466 mg) and sodium azide (900 mg) in N,N-dimethylformamide (10 mL) was heated at 90° C. for 18 hours. The reaction mixture was then cooled, diluted with water, and then sodium hydroxide solution was added resulting in a brown precipitate. This was collected by filtration and washed with water and ether to yield the desired title compound as a yellow solid (242 mg).

reactant | 10-fluoro-4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester | 466 mg | COC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)F | C19H13FN2O3
reactant | sodium azide | 900 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 10-Amino-4-methoxy-benzo[a]phenazine-11-carboxylic acid methyl ester | 242 mg | COC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)N | C19H15N3O3
